US08487108B2
Step 2. 1-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)propan-2-one
A mixture of (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2,2-dimethoxypropoxy)methyl)piperidine-1-carboxylate, obtained as described above, 2 N HCl (100 mL) and CH3CN (100 mL) was vigorously stirred at rt for 22 h. After the reaction mixture was evaporated under reduced pressure, the crude 1-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)propan-2-one was directly used in the next step without further purification. MS ESI +ve m/z 284 (M+H).

reactant | (R)-tert-butyl 3-((R)-(3-chlorophenyl)(2,2-dimethoxypropoxy)methyl)piperidine-1-carboxylate | ClC=1C=C(C=CC1)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCC(C)(OC)OC | C22H34ClNO5
reactant | HCl | 2 N, 100 mL | Cl | ClH
solvent | CH3CN | 100 mL | CC#N | C2H3N
product | 1-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)propan-2-one | ClC=1C=C(C=CC1)[C@H](OCC(C)=O)[C@H]1CNCCC1 | C15H20ClNO2
